US07905944B2
2-(2′-hydroxy-5′-methylphenyl) benzotriazol;
2-(2′-hydroxy-3′,5′-di-tert-butylphenyl) benzotriazol; 2-(2′-hydroxy-3′-tert-butyl-5′-methylphenyl) benzotriazol; 2-(2′-hydroxy-3′,5′-di-tert-butylphenyl)-5-chlorobenzotriazol; 2-(2′-hydroxy-3′-(3″,4″,5″,6″-tetrahydrophthalimidomethyl)-5′-methylphenyl) benzotriazol; 2,2-methylene bis (4-(1,1,3,3-tetramethylbutyl)-6-(2H-benzotriazol-2-yl) phenol); 2-(2′-hydroxy-3′-tert-butyl-5′-methylphenyl)-5-chlorobenzotriazol; 2,4-dihydroxybenzophenone; 2,2′-dihydroxy-4-methoxybenzophenone; 2-hydroxy-4-methoxy-5-sulfobenzophenone; bis(2-methoxy-4-hydroxy-5-benzoylphenylmethane); (2,4-bis-(n-octylthio)-6-(4-hydroxy-3,5-di-tert-butylanilino)-1,3,5-triazine; 2-(2′-hydroxy-3′,5′-di-tert-butylphenyl)-5-chlorobenzotriazol; 2(2′-hydroxy-3′,5′-di-tert-amylphenyl)-5-chlorobenzotriazol; 2,6-di-tert-butyl-p-cresol; pentaerythrityl-tetrakis[3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate]; triethyleneglycol-bis[3-(3-tert-butyl-5-methyl-4-hydroxyphenyl) propionate]; 1,6-hexanediol-bis[3-(3,5-di-tert-butyl-4-hydroxyphenyl) propionate]; 2,4-bis-(n-octylthio)-6-(4-hydroxy-3,5-di-tert-butylanilino)-1,3,5-triazine; 2,2-thio-diethylene bis[3-(3,5-di-tert-butyl-4-hydroxyphenyl) propionate]; octadecyl-3-(3,5-di-tert-butyl-4-hydroxyphenyl) propionate; N,N′-hexamethylene bis(3,5-di-tert-butyl-4-hydroxy-hydrocinnamide); 1,3,5-trimethyl-2,4,6-tris(3,5-di-tert-butyl-4-hydroxybenzyl) benzene; tris-(3,5-di-tert-butyl-4-hydroxybenzyl)-isocyanurate and the like.

reactant | 2-(2′-hydroxy-3′,5′-di-tert-butylphenyl) benzotriazol | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC=C2 | C20H25N3O
reactant | 2-(2′-hydroxy-3′-tert-butyl-5′-methylphenyl) benzotriazol | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=N1)C=CC=C2 | C17H19N3O
reactant | 2-(2′-hydroxy-3′,5′-di-tert-butylphenyl)-5-chlorobenzotriazol | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=N1)C=CC(=C2)Cl | C20H24ClN3O
reactant | 2-(2′-hydroxy-3′-tert-butyl-5′-methylphenyl)-5-chlorobenzotriazol | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=N1)C=CC(=C2)Cl | C17H18ClN3O
reactant | 2,4-dihydroxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | 2,2′-dihydroxy-4-methoxybenzophenone | OC1=C(C(=O)C2=C(C=CC=C2)O)C=CC(=C1)OC | C14H12O4
reactant | 2-hydroxy-4-methoxy-5-sulfobenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)OC)S(=O)(=O)O | C14H12O6S
reactant | 2,4-bis-(n-octylthio)-6-(4-hydroxy-3,5-di-tert-butylanilino)-1,3,5-triazine | C(CCCCCCC)SC1=NC(=NC(=N1)SCCCCCCCC)NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C33H56N4OS2
reactant | 2(2′-hydroxy-3′,5′-di-tert-amylphenyl)-5-chlorobenzotriazol | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N1N=C2C(=N1)C=CC(=C2)Cl | C22H28ClN3O
reactant | 2,6-di-tert-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | triethyleneglycol-bis[3-(3-tert-butyl-5-methyl-4-hydroxyphenyl) propionate] | C(C)(C)(C)C=1C=C(C=C(C1O)C)CCC(=O)OCCOCCOCCOC(CCC1=CC(=C(C(=C1)C)O)C(C)(C)C)=O | C34H50O8
reactant | 1,6-hexanediol-bis[3-(3,5-di-tert-butyl-4-hydroxyphenyl) propionate] | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCCCCCOC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C40H62O6
reactant | 1,3,5-trimethyl-2,4,6-tris(3,5-di-tert-butyl-4-hydroxybenzyl) benzene | CC1=C(C(=C(C(=C1CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C54H78O3
reactant | tris-(3,5-di-tert-butyl-4-hydroxybenzyl)-isocyanurate | CC(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)CN2C(=O)N(C(=O)N(C2=O)CC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)CC4=CC(=C(C(=C4)C(C)(C)C)O)C(C)(C)C | C48H69N3O6
product | 2-(2′-hydroxy-5′-methylphenyl) benzotriazol | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
